US09163011B2
c) [Bis-(4-methoxy-phenyl)-phenyl-methyl]-((R)-4-(6-bromo-3-fluoro-pyridin-2-yl)-5,5-difluoro-4,6,6-trimethyl-5,6-dihydro-4H-[1,3]oxazin-2-yl)-amine
To a solution of (R)-4-(6-bromo-3-fluoro-pyridin-2-yl)-5,5-difluoro-4,6,6-trimethyl-5,6-dihydro-4H-[1,3]oxazin-2-ylamine (106 mg, 0.301 mmol) and triethylamine (60.9 mg, 0.602 mmol) in dichloromethane (3 ml) was added solid 4,4′-dimethoxytrityl chloride (112 mg, 0.331 mmol) under argon atmosphere. The green solution was stirred at rt for 2 hrs and was then evaporated in vacuo. The crude product was taken up with ethyl acetate and washed with aqueous sodium bicarbonate solution, water and brine. The organic phase was dried over sodium sulfate, filtered and evaporated. Filtration over silica gel (4.4 g, toluene/ethyl acetate 6:4) afforded the title compound as a blue-gray foam (202 mg, 96%).

reactant | (R)-4-(6-bromo-3-fluoro-pyridin-2-yl)-5,5-difluoro-4,6,6-trimethyl-5,6-dihydro-4H-[1,3]oxazin-2-ylamine | 0.301 mmol, 106 mg | BrC1=CC=C(C(=N1)[C@]1(N=C(OC(C1(F)F)(C)C)N)C)F | C12H13BrF3N3O
reactant | triethylamine | 0.602 mmol, 60.9 mg | C(C)N(CC)CC | C6H15N
reactant | 4,4′-dimethoxytrityl chloride | 0.331 mmol, 112 mg | COC1=CC=C(C(C2=CC=C(C=C2)OC)(C2=CC=CC=C2)Cl)C=C1 | C21H19ClO2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | [Bis-(4-methoxy-phenyl)-phenyl-methyl]-((R)-4-(6-bromo-3-fluoro-pyridin-2-yl)-5,5-difluoro-4,6,6-trimethyl-5,6-dihydro-4H-[1,3]oxazin-2-yl)-amine | 202 mg, 96% | COC1=CC=C(C=C1)C(C1=CC=CC=C1)(C1=CC=C(C=C1)OC)NC=1OC(C([C@@](N1)(C)C1=NC(=CC=C1F)Br)(F)F)(C)C | C33H31BrF3N3O3
